US05576336
Step 1: N-Boc-(4-bromo)piperidine
To N-Boc-4-hydroxy piperidine (20 g, 100 mmol) in THF (200 ml) at 0° C. was added triphenylphosphine (28.85 g, 110 mmol) followed by carbon tetrabromide (36.48 g, 110 mmol). The solution was stirred at room temperature for 2 h then filtered and concentrated under vacuum. Flash column chromatography using dichloromethane in hexane (10-70%) yielded the product as a colourless oil (23.6 g); δH (CDCl3) 1.47 (9H, s, t-Bu), 1.93 and 2.04 (4H, m, 3,5-piperidinyl CH2), 3.31 and 3.66 (4H, m, 2,6-piperidinyl CH2), and 4.39 (1H, m, 4-piperidinyl H).

reactant | N-Boc-4-hydroxy piperidine | 100 mmol, 20 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 110 mmol, 28.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 110 mmol, 36.48 g | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-Boc-(4-bromo)piperidine | 23.6 g | C(=O)(OC(C)(C)C)N1CCC(CC1)Br | C10H18BrNO2
